US05532236
8-(2-n-Propyl-1H-imidazol-1-yl)-7-nitro[1,2,4]triazolo[4,3-a]quinoxaline-1,4(2H,5H)-dione
The title compound was prepared from 8-fluoro-7-nitro[1,2,4]triazolo[4,3-a]quinoxaline-1,4(2H,5H)-dione and 2-n-propylimidazole by a method analogous to the method described in example 11. M.p. 260° C. decomp.

reactant | 8-fluoro-7-nitro[1,2,4]triazolo[4,3-a]quinoxaline-1,4(2H,5H)-dione | FC1=C(C=C2NC(C=3N(C2=C1)C(NN3)=O)=O)[N+](=O)[O-] | C9H4FN5O4
reactant | 2-n-propylimidazole | C(CC)C=1NC=CN1 | C6H10N2
product | 8-(2-n-Propyl-1H-imidazol-1-yl)-7-nitro[1,2,4]triazolo[4,3-a]quinoxaline-1,4(2H,5H)-dione | C(CC)C=1N(C=CN1)C1=C(C=C2NC(C=3N(C2=C1)C(NN3)=O)=O)[N+](=O)[O-] | C15H13N7O4
